US03960542
2-(2,4-Dichlorophenylmethylsulfinyl)-pyridine N-oxide
A well stirred solution of 5.8 gms (0.02 mole) of 2-(2,4-dichlorophenylmethylthio)pyridine N-oxide in 50 ml of chloroform is treated at 0° - 10° with 4 gms (0.02 mole) MCPBA (85%) in 50 ml of chloroform. The mixture is allowed to rise to ambient and held for 16 hours. The reaction mixture is washed with saturated sodium bicarbonate, dried and evaporated to 5.5 gms (89% theory) of product. Melting point 138° - 141°C. Structure confirmed by IR and NMR. (IR N-O 1240 cm-1, SO 1050 cm-1).

reactant | 2-(2,4-dichlorophenylmethylthio)pyridine N-oxide | 0.02 mole, 5.8 gms | ClC1=C(C=CC(=C1)Cl)CSC1=[N+](C=CC=C1)[O-] | C12H9Cl2NOS
reactant | MCPBA | 0.02 mole, 4 gms | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,4-Dichlorophenylmethylsulfinyl)-pyridine N-oxide | ClC1=C(C=CC(=C1)Cl)CS(=O)C1=[N+](C=CC=C1)[O-] | C12H9Cl2NO2S
